US09302989B2
N-{6-[(cyclopentylmethyl)carbamoyl]pyridazin-3-yl}-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1C, substituting cyclopentylmethamine for 3-phenylpropan-1-amine and 6-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)pyridazine-3-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ 10.03 (bs, 1H), 8.95 (t, J=6.1 Hz, 1H), 8.62 (s, 1H), 8.51 (d, J=5.0 Hz, 1H), 8.29 (d, J=9.3 Hz, 1H), 8.11 (d, J=9.3 Hz, 1H), 7.44 (d, J=5.1 Hz, 1H), 4.99-4.75 (m, 4H), 3.28-3.20 (m, 2H), 2.31-2.13 (m, 1H), 1.75-1.38 (m, 6H), 1.39-1.18 (m, 2H); MS (ESI(+)) m/e 367 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)pyridazine-3-carboxylic acid | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(N=N2)C(=O)O | C13H11N5O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{6-[(cyclopentylmethyl)carbamoyl]pyridazin-3-yl}-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C1(CCCC1)CNC(=O)C1=CC=C(N=N1)NC(=O)N1CC=2C=NC=CC2C1 | C19H22N6O2
